US06777406B2
(±)-cis-N-[2-chloro-5-(trifluoromethyl)phenyl]-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine
Using 3-bromo-4-chlorobenzotrifluoride and following the procedures described in EXAMPLE 17, Parts B and C, (±)-cis tert-butyl 2-amino-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate was converted into (±) -cis-N-[2-chloro-5-(trifluoromethyl)phenyl]-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine, bis-trifluoroacetic acid salt, after HPLC purification (c18 reverse phase column, elution with a H2O/CH3CN gradient with 0.5% TFA). This material was free-based with aq ammonium hydroxide, extracted with chloroform, washed with brine, dried (K2CO3) and concentrated to the title compound of EXAMPLE 114 as the free base. LRMS (ES)+: 394.4 (M+H)+.

reactant | 3-bromo-4-chlorobenzotrifluoride | BrC=1C=C(C=CC1Cl)C(F)(F)F | C7H3BrClF3
reactant | (±)-cis tert-butyl 2-amino-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate | NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CC4)CN(C3)C(=O)OC(C)(C)C | C18H25N3O2
product | (±)-cis-N-[2-chloro-5-(trifluoromethyl)phenyl]-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine | ClC1=C(C=C(C=C1)C(F)(F)F)NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CC4)CNC3 | C20H19ClF3N3
